US04400542
2-n-Butyl-4,6-diacetyl resorcinol
4,6-Diacetyl resorcinol (485 g, 2.5 m) sodium hydroxide (220 g, 5 m), 1-iodobutane (285 ml, 2.5 m) and water (2 l) were heated on a steam bath for 16 hours, cooled to 20° and the yellow-white precipitate filtered and washed with water. The solid was washed with dilute hydrochloric acid, extracted into chloroform (2×1.5 l) and the chloroform solution washed with water (2 l) and brine (1 l), then dried (anhyd. Na2SO4). Filtration and removal of solvent gave an oil (420 g) which crystallised on standing.

reactant | 4,6-Diacetyl resorcinol | 485 g | C(C)(=O)C1=C(C=C(O)C(=C1)C(C)=O)O | C10H10O4
reactant | sodium hydroxide | 220 g | [OH-].[Na+]
reactant | 1-iodobutane | 285 ml | ICCCC | C4H9I
solvent | water | 2 l | O | H2O
product | 2-n-Butyl-4,6-diacetyl resorcinol | 420 g | C(CCC)C1=C(O)C(=CC(=C1O)C(C)=O)C(C)=O | C14H18O4
